Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L sided weakness
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ Stroke Scale (performed within 6 hours of presentation)-
Total [0]
Date: ___
Time: ___

1a. Level of Consciousness -
1b. LOC Questions -
1c. LOC Commands -
2. ___ Gaze -
3. Visual Fields -
4. Facial Palsy -
5a. Motor arm, left -
5b. Motor arm, right -
6a. Motor leg, left -
6b. Motor leg, right -
7. Limb Ataxia -
8. Sensory -
9. Language -
10. Dysarthria -
11. Extinction and Neglect -

Reason for Consult: Gait instability

HPI:
The pt is a ___ year-old  M w/ hx of HTN, HLD and migraines who
presents with headache and gait instability. Hx obtained from pt
at bedside.

Pt reports he developed L sided weakness last night at ___
alongside new onset headache and malaise. Headache described as
bifrontal region and gradual in onset. Aching in quality,
moderate in severity. Non-radiating. No red flags per pt. Of
note, pt has chronic sinus issues. He went into shower to 
attempt
to relieve pain and noticed that when trying to use L side of
body to move or grab for things he would start to fall to L. He
continued to notice this difficulty after getting out of shower
and walking upstairs to bedroom. 

Upon awakening morning of presentation, he again noticed this
leaning over toward L, particularly when putting pressure on his
L foot. His headache had by then improved in severity. Out of
concern, pt presented to ___ where lab w/u was 
unremarkable
and ___ did not show any acute findings. Pt was then
transferred to ___ for further evaluation.

Amidst this clinical picture, pt denies  recent dysarthria,
dysphagia, lightheadedness, vertigo, diplopia, or decreased
visual acuity. No focal weakness or sensory loss (although he 
has
experienced parasthesias over last few months in L thigh
attributed to multiple objects in his L pocket).  Denies any
foot/leg pain or back/neck pain. No recent bladder issues but
endorses mild constipation (2 BM/day) over last few weeks, which
he attributes to not eating as much fruit as before.
Interestingly, he feels that L leaning only occurs w/ slowed
ambulation, not when at rest or walking fast. No falls or LOC
over last day. No recent f/c or infectious sx.

Pt has never had similar sx before. Of note, approximately ___eveloped slurred speech, R arm weakness, and ?R facial
droop which resolved over half an hour. He saw his PCP who
referred for MRI which was negative. In the meantime he has been
started on ASA for cardiovascular prevention.

 
Past Medical History:
HTN
HLD
Migraines-classic w/ visual aura starting in teens, resolved in
___
 
Social History:
___
Family History:
Mother with a stroke 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Physical Exam:
Vitals: T: 98.1 P: 75 BP: 176/106 RR: 18 O2sat: 99% RA
General: Awake, cooperative, NAD, elderly AA male
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___
w/ cue, ___ w/ MCQ) at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. HINTS exam negative. Normal saccades. VFF to
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
Intact hip extension/abduction/adduction
-Sensory: Mild decrease in LT and PP over anterior and lateral
thigh on L (97% of normal). Temperature appears intact. 
Vibratory
sense and proprioception are intact at level of great toe. No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    2   1
R  1  1    1    1   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, cautious and antalgic 
gait.
Falls over to L when puts weight on L foot. Romberg shows mild
sway w/ effort.  
DISCHARGE EXAMINATION: 

MS: Alert and oriented to remote and interval events, ___. Speech fluent with no paraphasias; without 
dysarthria. Naming of high and low frequency intact, reading 
intact. No neglect.
CN: 3->2 bl, eyes conjugate, EOMi with intact convergence, no 
nystagmus, no visual field deficits to finger wiggle, smile 
symmetric, palate symmetric, tongue with full excursions, face 
sensation intact
Motor: no pronator drift, orbiting on left; delt full bl, tri 
and bi full bl, wr ext full bl, finger ext full bl, finger flx 
full bl, IP, ham TA full bl
Sensory: slight left proprioceptive loss when touching nose with 
eyes closed, proprioception intact at thighs, intact to LT, 
intact to pin throughout with exception of left anterior thigh
Coordination: finger taps slightly irregular on left, left 
dysmetria is subtle 
Reflexes: biceps and br 1 bilatearlly; absent patellars and 
achiles without clonus, mute bilaterally 
Gait: narrow base and stride, marches in place with slight 
movement backward

 
Pertinent Results:
Lab Results: 

___ 04:25AM BLOOD WBC-5.4 RBC-4.60 Hgb-13.7 Hct-41.1 MCV-89 
MCH-29.8 MCHC-33.3 RDW-13.8 RDWSD-44.5 Plt ___
___ 08:05AM BLOOD Neuts-33.1* Lymphs-55.1* Monos-8.0 
Eos-3.2 Baso-0.4 Im ___ AbsNeut-1.53* AbsLymp-2.55 
AbsMono-0.37 AbsEos-0.15 AbsBaso-0.02
___ 04:25AM BLOOD Plt ___
___ 04:25AM BLOOD ___ PTT-33.0 ___
___ 04:25AM BLOOD Glucose-99 UreaN-11 Creat-0.9 Na-145 
K-4.1 Cl-107 HCO3-25 AnGap-13
___ 04:25AM BLOOD ALT-20 AST-23 LD(LDH)-200 CK(CPK)-295 
AlkPhos-78 TotBili-0.3
___ 08:05AM BLOOD Lipase-20
___ 04:25AM BLOOD CK-MB-3 cTropnT-<0.01
___ 04:25AM BLOOD Albumin-3.8 Calcium-9.2 Phos-3.4 Mg-2.0 
Cholest-144
___ 04:25AM BLOOD %HbA1c-6.4* eAG-137*
___ 04:25AM BLOOD Triglyc-64 HDL-62 CHOL/HD-2.3 LDLcalc-69
___ 04:25AM BLOOD TSH-1.8

IMAGING: 

CTA Head and Neck: 
1.  Dental amalgam streak artifact limits study. 
2. No acute intracranial process.  Please note MRI of the brain 
is more 
sensitive for the detection of acute infarct. 
3. Streak artifact limits evaluation of left vertebral artery 
origin. 
4. 40% narrowing of right internal carotid artery origin by 
NASCET criteria. 
5. Otherwise, patent bilateral cervical carotid and vertebral 
arteries as 
described. 
6. Patent circle of ___ without definite evidence of 
stenosis, occlusion or aneurysm. 
7. Paranasal sinus disease , as described. 
8. Multilevel cervical spondylosis as described. 

MRI Brain with and without contrast: 
  
1.  Study is mildly degraded by motion. 
2. Acute to subacute right thalamus and posterior limb of the 
internal capsule infarct with no definite evidence of 
hemorrhagic transformation. 
3.  Paranasal sinus disease , as described. 

TTE: 
No structural cardiac source of embolism (e.g.patent foramen 
ovale/atrial septal defect,
intracardiac thrombus, or vegetation) seen. Mild regional left 
ventricular systolic dysfunction c/w CAD
with overall borderline systolic function. normal right 
ventricular systolic function. Scant late bubbles in
the left heart suggestive of pulmonary AVM.
EMR ___-P-IP-OP (___) Name: ___ MR___ Study 
Date: ___ 10:14:00 p. ___
Compared with the prior TTE (images not available for review) of 
___, the left ventricular
systolic function is borderline normal with mild regional 
dysfunction.

 
Brief Hospital Course:
Brief Hospital Course: 

Mr. ___ is a ___ gentleman with a history of 
hypertension, hypertension, hyperlipidemia, migraines in his 
___ years until about age ___, and possible TIA over ___ 
years ago who initially presented to the hospital on ___ after 
noticing subtle L sided weakness that began the day before while 
the patient was at work fixing a refrigerator at a client's 
house. The symptoms began after the patient stood up from a 
squatted position and he felt subtle L leg weakness and he 
bumped into the adjacent wall. The symptoms fluctuated for the 
rest of the evening and he would intermittently feel weakness on 
the L side and had some mild difficulty walking. The next 
morning when the patient awoke he had a slight headache and 
noted his L arm was slightly clumsy, prompting transfer to 
___.  The patient was evaluated by neurology in the ER and he 
was admitted to the Stroke service under the Stroke Attending 
Dr. ___. 

While admitted the following issues were addressed: 

#L-sided weakness due to R thalamic ischemic infarct: 
-The patient had a CTA head and neck in the ER which was 
negative for any major vessel occlusion or stenosis. He had 
minimal intracranial atherosclerosis 
-On MRI brain, the patient was found to have a new acute R 
thalamic infarct as seen on DWI/ADC imaging. He did not have any 
evidence of old strokes on MRI. On examination he only had very 
subtle signs of L sided weakness such as orbiting around the L 
arm and clumsiness with finger tapping, but otherwise he was 
full strength and no other deficits. Based on the location of 
the infarct, he likely is picking up some internal capsule 
fibers giving him a thalamocapsular syndrome with subtle L sided 
weakness. He already was improving/recovering by the time MRI 
had been completed. 
Etiology of the stroke is unclear but could be small vessel 
disease (though his risk factors are well controlled) vs. 
cardioembolic. 
-Echocardiogram was done and negative for a thrombus, nor any 
ASD/PFO. Given that his symptoms first started when he was 
bending down and stood up, valsalva induced thrombus was 
considered, however no PFO to consider venous embolus. 
-He was monitored on telemetry without evidence of afib, but he 
was sent home with ___ monitor (holter) 
-Given that the patient had a stroke despite taking aspirin 81mg 
daily, he was switched from aspirin to plavix for stroke 
prevention 

#Hypertension: 
-His home antihypertensive medications were held on admission 
due to acute stroke but were restarted on discharge

#Hyperlipidemia: 
-LDL was 69. No changes made to statin 

Transitional Issues: 

1. STOP taking aspirin 81mg and START taking plavix 75mg daily 
for stroke prevention 
2. You will be discharged with a Holter Monitor called ___ of 
Hearts to wear for the next two weeks. This will monitor your 
heart rhythm and look for abnormal beating such as 
atrial-fibrillation. This will further help to determine your 
risk of having a future stroke 
3. Please follow-up with your PCP in the next ___ weeks
4. Please follow-up in the Neurology Stroke clinic with Dr. 
___. Please call ___ if you do not hear from the 
office in 1 week to schedule the appointment  

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 69) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 10 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth DAILY Disp #*90 
Tablet Refills:*3 
2.  Hydrochlorothiazide 12.5 mg PO DAILY  
3.  Lisinopril 10 mg PO DAILY  
4.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R thalamic infarct 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Mr. ___, 
 
 You were hospitalized due to symptoms of L sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. 
 
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 1. Diabetes Mellitus 
 2. Hypertension 
  
 We are changing your medications as follows:  

 1. Take Plavix 75mg daily instead of Aspirin . The reason for 
this is because you had a stroke though you were taking aspirin, 
therefore you need a different medication to prevent stroke. 
Stop taking aspirin 

 Please take your other medications as prescribed.  

 Please followup with Neurology and your primary care physician. 
 
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___